US04169949
To a suspension of 30.3 g (0.2 mole) of pure and dry 2-methyl-4-isothiazolin-3-one hydrochloride in 200 ml. of ethyl acetate is added over 1 hour, 71 g (1 mole) of chlorine. The reaction exotherms to 55° C. in 1/2 hour and all solid is dissolved after about 3/4 hour. The solution is degassed and evaporated under reduced pressure to give a cream color mush. The mush is shown by TLC (silica/toluene) to contain two major components. Crystallization of the mush from methanol gives 16.8 g of 4,5-dichloro-2-methyl-4-isothiazolin-3-one. Evaporation of the filtrate gives 23.4 of material which is chromatographed on a silica dry column with toluene. The fraction close to the solvent front is extracted and gives 8.8 g of crude product. Recrystallization from methanol gives 6.55 g (13% of white crystalline 2-methyl-4,4,5,5-tetrachloroisothiazolidin-3-one, m.p. 77°-80° C.

reactant | 2-methyl-4-isothiazolin-3-one hydrochloride | Cl.CN1SC=CC1=O
reactant | chlorine | 1 mole, 71 g | ClCl | Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-dichloro-2-methyl-4-isothiazolin-3-one | 16.8 g | ClC=1C(N(SC1Cl)C)=O | C4H3Cl2NOS
